US05753595
Under a nitrogen atmosphere a solution of 3.0 grams (9.7 mmole) of ethyl N-(2,4-dichloro-6-fluorobenzothiazol-7-yl)carbamate in 75 mL of tetrahydrofuran was stirred, and 1.7 grams (20 mmole) of piperidine was added. Upon completion of the addition the reaction mixture was stirred for 1.5 hours at ambient temperature. The reaction mixture was then poured into a mixture of 75 mL of aqueous 10% ammonium chloride and 75 mL of an aqueous saturated sodium chloride solution. The resulting mixture was extracted with three 75 mL portions of ethyl acetate. The combined extracts were washed with two 50 mL portions of an aqueous saturated sodium chloride solution. The organic layer was dried with sodium sulfate, filtered, and the filtrate was concentrated under reduced pressure, yielding a brown solid, which was purified by column chromatography on silica gel. Elution was accomplished with 2:1 heptane:ethyl acetate. The product-containing fractions were combined and concentrated, yielding 2.6 grams of ethyl N-[2-(1-piperidinyl)-4-chloro-6-fluorobenzothiazol-7-yl]carbamate. The NMR spectrum was consistent with the proposed structure.

reactant | ethyl N-(2,4-dichloro-6-fluorobenzothiazol-7-yl)carbamate | 9.7 mmole, 3.0 grams | ClC=1SC2=C(N1)C(=CC(=C2NC(OCC)=O)F)Cl | C10H7Cl2FN2O2S
reactant | piperidine | 20 mmole, 1.7 grams | N1CCCCC1 | C5H11N
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium chloride | 75 mL | [Cl-].[Na+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
product | ethyl N-[2-(1-piperidinyl)-4-chloro-6-fluorobenzothiazol-7-yl]carbamate | 2.6 grams | N1(CCCCC1)C=1SC2=C(N1)C(=CC(=C2NC(OCC)=O)F)Cl | C15H17ClFN3O2S
